US08492378B2
N′-[3-[3-(trifluoromethyl)phenyl]propionyl]benzothiazole-6-carbohydrazide
To a solution of benzothiazole-6-carboxylic acid (358 mg, 2.00 mmol) in tetrahydrofuran (10 mL) was added N,N′-carbonyldiimidazole (341 mg, 2.10 mmol) at room temperature, and the resulting mixture was stirred for 1 hr. To this reaction mixture was added 3-[3-(trifluoromethyl)phenyl]propanohydrazide (557 mg, 2.40 mmol), and the mixture was further stirred at room temperature for 24 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added to the residue. The precipitate was collected by filtration, purified by basic silica gel column chromatography (tetrahydrofuran) and recrystallized from hexane/tetrahydrofuran to give the title compound (524 mg, yield 67%) as colorless crystals.

reactant | benzothiazole-6-carboxylic acid | 2.00 mmol, 358 mg | S1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO2S
reactant | 3-[3-(trifluoromethyl)phenyl]propanohydrazide | 2.40 mmol, 557 mg | FC(C=1C=C(C=CC1)CCC(=O)NN)(F)F | C10H11F3N2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N′-[3-[3-(trifluoromethyl)phenyl]propionyl]benzothiazole-6-carbohydrazide | 524 mg, yield 67% | FC(C=1C=C(C=CC1)CCC(=O)NNC(=O)C1=CC2=C(N=CS2)C=C1)(F)F | C18H14F3N3O2S
